US04282365
Step E: 2-Cyano-6,11-dihydro-11-oxodibenz[b,e]oxepin
Reflux 43 gm. (0.1488 mole of 2-bromo-6,11-dihydro-11-oxodibenz[b,e]oxepin and 16 gm. (0.178 mole, 20% excess) of cuprous cyanide in 150 cc. of N,N-dimethylformamide for 24 hours. Cool to 100° C. and pour into a solution of 100 gm. of ferric chloride in 140 cc. of 5% aqueous hydrochloric acid with stirring. Keep the mixture at 70° C. for 30 minutes cool, filter and wash the solids with water. Dissolve the solids in methylene chloride and purify by filtering through a short column of silica gel (m.p. 160°-161° C.).

reactant | 2-bromo-6,11-dihydro-11-oxodibenz[b,e]oxepin | 0.1488 mole | BrC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C14H9BrO2
reactant | hydrochloric acid | Cl | ClH
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Cyano-6,11-dihydro-11-oxodibenz[b,e]oxepin | C(#N)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H9NO2
